US05622954
This compound is prepared in a manner analogous to that of Step A of Example 4, using 2.4 grams (0.06.3 mole) of lithium aluminum hydride, 21.8 grams (0.097 mole) of 1-(4-chlorophenyl)-1-cyclopentanecarboxylic acid (commercially available) in about 300 mL of diethyl ether, yielding [1-(4-chlorophenyl)-1-cyclopentyl]methanol.

reactant | lithium aluminum hydride | 2.4 grams | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(4-chlorophenyl)-1-cyclopentanecarboxylic acid | 0.097 mole, 21.8 grams | ClC1=CC=C(C=C1)C1(CCCC1)C(=O)O | C12H13ClO2
solvent | diethyl ether | about 300 mL | C(C)OCC | C4H10O
product | [1-(4-chlorophenyl)-1-cyclopentyl]methanol | ClC1=CC=C(C=C1)C1(CCCC1)CO | C12H15ClO
